US04906643
A mixture of 1.9 parts of 2-chlorobenzothiazole, 3.7 parts of cis-4-amino-N-[1-(3-aminopropyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide and 22.5 parts of methylbenzene was stirred and refluxed overnight. 1.6 Parts of sodium carbonate were added and the whole was stirred for 4 hours at reflux temperature. The methylbenzene layer was washed with water and set aside. The precipitated product, which was formed during the reaction, was filtered off and dissolved in trichloromethane. The solution was washed with water. The combined organic layers (trichloromethane and methylbenzene layers) were dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 2.06 parts (41.2%) of cis-4-amino-N-[1-[3-(2-benzothiazolylamino)propyl]-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide; mp. 161.5° C. (compound 45).

reactant | 2-chlorobenzothiazole | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | cis-4-amino-N-[1-(3-aminopropyl)-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCN)OC)C=C1Cl)OC | C17H27ClN4O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | cis-4-amino-N-[1-[3-(2-benzothiazolylamino)propyl]-3-methoxy-4-piperidinyl]-5-chloro-2-methoxybenzamide | 41.2% | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCNC=2SC3=C(N2)C=CC=C3)OC)C=C1Cl)OC | C24H30ClN5O3S
